US07531553B2
Step B: [4-(4-Benzyloxy-phenoxy)-pyridin-2-yl]-methylamine
In a 350 mL sealed tube fitted with stirring bar were combined at 0° C. 4-(4-benzyloxy-phenoxy)-2-chloro-pyridine (Step a, 2.11 g, 6.79 mmol), DMSO (10 mL), DIEA (1.3 mL, 7.47 mmol), and CH3NH2 (4.1 mL of a 2 N solution in THF, 8.15 mmol). The reaction was heated to 100° C. for 7 days. During that period, an additional amount of CH3NH2 solution was added on four separate days (for a total of 70 mL). The reaction was cooled to RT and diluted into 1N NaOH and Et2O after evaporating off THF. After separation of the layers, the organic layer was washed 3× with 1 N NaOH then with brine. The crude residue was eluted on a silica gel column with a hexanes/EtOAc gradient to yield the title compound.

reactant | 4-(4-benzyloxy-phenoxy)-2-chloro-pyridine | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC(=NC=C2)Cl)C=C1 | C18H14ClNO2
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
reactant | DIEA | 7.47 mmol, 1.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3NH2 | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | [4-(4-Benzyloxy-phenoxy)-pyridin-2-yl]-methylamine | C(C1=CC=CC=C1)OC1=CC=C(OC2=CC(=NC=C2)NC)C=C1 | C19H18N2O2
